Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]([C:2]([C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2](/[C:3]([O:4][H:12])=[C:5](/[O:6][H:10])[H:11])([H:8])[H:9])[H:7],61.061430831671295
[C:1]([C@@:2]([O:3][H:12])([C:4](=[C:5]=[O:6])[H:13])[H:11])([H:8])([H:9])[H:10].[N:7]([H:14])([H:15])[H:16]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],36.2001582135757
[C:1]([C:2]12[C:3]([H:11])([H:12])[C:4]([H:13])([C:5]1([H:14])[H:15])[C:6]([H:16])=[C:7]2[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([C:7](=[C:6])[H:17])[C:3]([H:11])([H:12])[C:4]([H:13])([H:16])[C:5]1([H:14])[H:15])([H:8])([H:9])[H:10],63.0472450430859
[C:1]([O:2][C:3](=[O:4])[C@@:5]([C:6]([H:12])([H:13])[H:14])([O:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2]/[C:3]([O:4][H:15])=[C:5](\[C:6]([H:12])([H:13])[H:14])[O:7][H:11])([H:8])([H:9])[H:10],64.7129961542976
[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8]>>[O-:1][C@@:2]1([H:9])[C:3]([H:10])([H:11])[C:4](=[N-:5])[C+:7]([H:12])[C+:6]1[H:8],84.4478032070616
[C:1]([H:7])([H:8])([H:9])[H:18].[C:2]([C:3]([C:5]([H:15])([H:16])[H:17])=[O:6])([C:4]([H:12])([H:13])[H:14])([H:10])[H:11]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9],90.14214681473258
[C:1]([C+:2]=[C:6]=[N-:7])([H:8])([H:9])[H:10].[C:3]([C:4](=[O:5])[H:14])([H:11])([H:12])[H:13]>>[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],3.1333582963712985
[C:1]([C:4]([C:2](=[O:3])[C:6]#[C:7][H:15])([H:12])[H:13])([H:8])([H:9])[H:10].[O:5]([H:11])[H:14]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],69.89054277277967
[C:1]([O:2][C@@:3]1([H:13])[N-:4][N:5]([H:11])[C:6]([H:12])=[C+:7]1)([H:8])([H:9])[H:10]>>[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10],0.9861702925321936
[C:6](=[O:7])([H:13])[H:14].[N:1]([C@:2]1([O:3][H:15])[N:4]([H:10])[C:5]1([H:11])[H:12])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9],15.751279684211198
[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9]>>[N:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C:6](=[N:7])[C:5]1([H:10])[H:11],74.0527146537012
[C:1]1([H:8])([H:10])[C@:2]([O:3][C:4](=[O:5])[H:12])([H:11])[C:6][C:7]1([H:9])[H:13]>>[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],40.54160415539209
[C:1]([C@@:2]1([H:11])[O:3][C:4](=[O:5])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[H:11])([H:8])([H:9])[H:10].[c:4]1(=[O:5])[c:6]([H:12])[c:7]1[H:13],85.0737571492058
[C:1]([C@@:2]1([C:5](=[O:6])[N:7]([H:13])[H:14])[C:3]([H:11])([H:12])[O:4]1)([H:8])([H:9])[H:10]>>[C:1]([C:3]([O+:4]=[C:2]=[C:5]([O-:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],96.83213380785341
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:3](/[C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])[H:11])([H:8])([H:9])[H:10].[O:4]([H:12])[H:14],62.764903686850786
[N:1]([c:2]1[n:3][n:4][c:5]([N:6]([H:10])[H:11])[o:7]1)([H:8])[H:9]>>[N:1]([C:2]([N:3]1[N:4]=[C:5]1[N:6]([H:10])[H:11])=[O:7])([H:8])[H:9],50.6958288756217
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7]>>[H:7][H:8].[O:1]=[C:2]1[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11],88.9150584695335
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[C:4]1([H:11])[H:12])([H:8])([H:9])[H:10],57.4744340920928
[N:1]([C:2](=[O+:3][C:6]#[N:7])[C:4]#[C-:5])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9],31.736718180144294
[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4](=[O:7])[H:12])([C:6](=[C:5]([H:13])[H:14])[H:15])[H:11])([H:9])[H:10])[H:8],30.746496379523506
[C@:1]12([H:9])[C:2]([H:10])=[C:3]([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]1([H:16])[C@:7]23[H:17].[H:8][H:11]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]2([H:16])[C@:7]13[H:17],74.9009250310527
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C+:4]=[C:6]=[N-:7])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5]([H:13])([H:14])([H:15])[H:16],77.90183465821421
[C:1]([C:2]/[C:3](=[C:4](\[C:5]([H:11])([H:12])[H:13])[H:10])[C:6]([H:14])([H:15])[H:16])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9],29.344058088823694
